US05214191
Methyl 2,2-dimethyl-3-(4'-tert-butyldimethylsilyloxyphenylthio)propionate (7.09 g, 20 mmol) was added to KOH (6.73 g, 120 mmol) in 40 mL of H2O and the mixture was heated to reflux overnight. The reaction mixture was cooled to room temperature, diluted with 40 mL of H2O and extracted with ether. The aqueous layer was separated, acidified to pH=2 and extracted with ether (3×100 mL). The combined ether layers were dried over anhydrous MgSO4, filtered and evaporated to give 3.72 g (82%) of 2,2-dimethyl-3-(4'-hydroxyphenylthio)propionic acid as a white solid. 1H NMR (CD3COCD3) δ1.25 (s, 6H), 3.11 (s, 2H), 6.80 (d, 2H, J=8.4 Hz), 7.31 (d, 2H, J=8.7 Hz), 8.6 (br s, 1H, --OH); 13C NMR (CD3COCD3) δ25.13, 44.53, 47.63, 117.21, 127.46, 134.67, 158.18, 178.41.

reactant | Methyl 2,2-dimethyl-3-(4'-tert-butyldimethylsilyloxyphenylthio)propionate | 20 mmol, 7.09 g | CC(C(=O)OC)(CSC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)C | C18H30O3SSi
reactant | KOH | 120 mmol, 6.73 g | [OH-].[K+]
solvent | H2O | 40 mL | O | H2O
solvent | H2O | 40 mL | O | H2O
product | 2,2-dimethyl-3-(4'-hydroxyphenylthio)propionic acid | 3.72 g, 82% | CC(C(=O)O)(CSC1=CC=C(C=C1)O)C | C11H14O3S
